US08420655B2
A solution of 5-fluoro-1,3-dioxo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (4.0 g, 15.08 mmol) in MeOH (20 mL) is refluxed for 1 hour. The reaction mixture is allowed to cool to room temperature and then concentrated under reduced pressure to afford 2-tert-butoxycarbonylaminocarbonyl-5-fluoro-benzoic acid methyl ester plus regioisomer (4.5 g, 100%) as a white solid.

reactant | 5-fluoro-1,3-dioxo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 15.08 mmol, 4.0 g | C(C)(C)(C)OC(=O)N1C(C2=CC=C(C=C2C1=O)F)=O | C13H12FNO4
reactant | MeOH | 20 mL | CO | CH4O
product | 2-tert-butoxycarbonylaminocarbonyl-5-fluoro-benzoic acid methyl ester | COC(C1=C(C=CC(=C1)F)C(=O)NC(=O)OC(C)(C)C)=O | C14H16FNO5
